US08609731B2
N-((S)-6-{[(E)-(R)-2-Methylpropane-2-sulfinylimino]methyl}-1,2,3,4-tetrahydro-naphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide
A mixture of N-((S)-6-formyl-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide (1.0 g), (R)-2-methylpropane-2-sulfinic acid amide (0.32 g), pyridinium para-toluenesulfonate (165 mg), copper(II) sulfate (1.0 g; anhydrous) and dichloromethane (10 ml) was stirred for 24 hours. Solid fractions were filtered off and the filtrate was concentrated. The residue was purified by chromatography on silica gel. The product was thus obtained with the molecular weight of 482.65 (C27H34N2O4S); MS (ESI): 483 (M+H+).

reactant | N-((S)-6-formyl-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | 1.0 g | C(=O)C=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C23H25NO4
reactant | (R)-2-methylpropane-2-sulfinic acid amide | 0.32 g | CC(C)(C)[S@@](=O)N | C4H11NOS
reactant | pyridinium para-toluenesulfonate | 165 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
catalyst | copper(II) sulfate | 1.0 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-((S)-6-{[(E)-(R)-2-Methylpropane-2-sulfinylimino]methyl}-1,2,3,4-tetrahydro-naphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | CC(C)(C)[S@@](=O)\N=C\C=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C27H34N2O4S
